US09196837B2
The resulting 12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole (7.8 g), iodobenzene (3.7 ml), sodium bisulfite (0.43 g), a copper powder (0.17 g), 3,5-di(tert-butyl)salicylic acid (0.69 g), potassium carbonate (5.71 g), and dodecylbenzene (10 ml) were added to a nitrogen-substituted reaction vessel, heated, and stirred at 170° C. for 10 hours. The mixture was cooled to 100° C., extracted by adding toluene (100 ml), concentrated under reduced pressure, and crystallized using n-hexane (30 ml) to obtain a pale yellow powder of 12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole (8.73 g; yield 88.3%).

reactant | 12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole | 7.8 g | CC1(C2=C(C=C3N=C4C=CC=CC4=C13)C=C1C=CCC=C12)C | C21H17N
reactant | iodobenzene | 3.7 ml | IC1=CC=CC=C1 | C6H5I
reactant | sodium bisulfite | 0.43 g | S([O-])(O)=O.[Na+]
reactant | 3,5-di(tert-butyl)salicylic acid | 0.69 g | C(C)(C)(C)C1=C(C(C(=O)O)=CC(=C1)C(C)(C)C)O | C15H22O3
reactant | potassium carbonate | 5.71 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.17 g | [Cu] | Cu
solvent | dodecylbenzene | 10 ml | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
product | 12,12-dimethyl-10-phenyl-10,12-dihydroindeno[2,1-b]carbazole | 8.73 g, yield 88.3% | CC1(C2=C(C=C3N=C4C=CC=CC4=C13)C=C1C=CC(C=C12)C1=CC=CC=C1)C | C27H21N
